Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G3P0 @ 24+5 presents with upper abdominal pain, nausea, 
and vomiting. Has had symptoms like this on/off throughout the 
pregnancy. Tonight worse than has been in last few weeks. C/o 
pain mostly w/ episodes of vomiting. describes
as gnawing, burning, twisting. Was able to tolerate ensure and 
yogurt this am after morning meds however this evening hasn't 
been able to tolerate anything by mouth. Tried ativan, compazine 
and pepcid.
 
Denies fevers, chills. Denies VB, LOF. Does not feel like she is 
having ctx. No back pain. No dysuria. Denies HA, visual changes 
and RUQ pain
 
Past Medical History:
PRENATAL COURSE
- ___ ___ by LMP (___) c/w 11wk U/S
- Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg electro pending
- LR quad, nl FFS
- hx Chlamydia in ___ tri, pt/partner treated, neg test of
re-infection (___)
- GERD/gastritis/freq abd pain
     - s/p admission ___ and ___ and ___ and
       ___
     - ___ neg  
     - ___ GI consult
     - ___ US: GB sludge, no cholecystitis or gallstones  
     - ___ abd/pelvis: no pathology  
     - ___ -> c/w severe gastritis; nl biopsies
- psych: panic/anxiety/depression.  ativan TID PRN.  ON last
admit was started on celexa however pt self d/c'd  

OBHx: G3P0

SAB x 2 requiring D&C

GynHx:
- denies history of abnormal paps or fibroids
- + Chlamydia (first trimester)

PMH: GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: afebrile, HR 70, BP 107/49
GENERAL: well appearing
ABDOMEN: soft, nondistended, gravid, NT
EXTREMITIES: NT, NE

Spot Check 150's
TOCO: no ctx

US: active FM, breech, nl fluid and movement
 
Pertinent Results:
___ 03:25AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 03:25AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR
___ 03:25AM URINE  RBC-0 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-45
___ 03:25AM URINE  MUCOUS-RARE
___ 02:55AM   GLUCOSE-87 UREA N-5* CREAT-0.6 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-22 ANION GAP-14
___ 02:55AM   estGFR-Using this
___ 02:55AM   ALT(SGPT)-15 AST(SGOT)-19 ALK PHOS-69 TOT 
BILI-0.2
___ 02:55AM   LIPASE-28
___ 02:55AM   CALCIUM-9.0 PHOSPHATE-3.3 MAGNESIUM-1.7 URIC 
ACID-3.6
___ 02:55AM   WBC-11.0 RBC-3.52* HGB-10.8* HCT-31.9* MCV-91 
MCH-30.6 MCHC-33.8 RDW-12.7
___ 02:55AM   NEUTS-68.3 ___ MONOS-6.5 EOS-0.7 
BASOS-0.1
___ 02:55AM   PLT COUNT-___ y/o G3P0 admitted at 24w5d for management of her 
nausea/vomiting and epigastric pain due to chronic gastritis.
.
#) Abdominal Pain: 
Ms ___ was given IV hydration, antiemetics, Protonix, and 
Dilaudid during her evaluation in triage. Her pain was unable to 
be controlled and she could not tolerate any po's, therefore, 
she was admitted to the ___ service. Over the course of 
several days she improved with IVF, Phenergan, Protonix, Pepcid, 
Ativan Zofran, Compazine and Carafate. She required small doses 
of IV Dilaudid several times but did not require standing 
narcotic medications. On day of discharge her pain was greatly 
improved and she was tolerating light POs and PO hydration.

#) Agitation/Anxiety:
Ms ___ continued to exhibit unusual behaviors during the 
periods of worsening pain, similar to her previous admissions. 
Examples of her usual behavior are voiding in the bed on 
multiple occasions, curling up on the floor naked, and thrashing 
around uncontrollably. She was seen by psychiatry in house who 
feel she likely has an anxiety disorder. Psych recommended 
Clonazepam 0.25-0.5mg IV BID-TID PRN anxiety for short-term, and 
PO Clonazepam rather than Ativan given that it is longer acting. 
They also recommended an SSRI. Finally they recommended Haldol 
0.5mg IV q8hrs as needed for significant alterations in 
behavior. 

#) Elevated blood pressures: Ms ___ had blood pressures in 
the 140-160/80 range while in house but only in the setting of 
anxiety /pain. When she was not anxious and in pain she was 
normotensive. A 24 hour urine was collected and was negative at 
289 mg. She denies headache or visual changes. Although she 
continued to have her typical epigastric pain she denies any new 
RUQ pain. Her HELLP labs were negative.

 
Medications on Admission:
protonix
pepcid
zofran
compazine
ativan
 
Discharge Medications:
1. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Pepcid 40 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
3. Zofran 4 mg Tablet Sig: ___ Tablets PO every eight (8) hours.
Disp:*40 Tablet(s)* Refills:*2*
4. promethazine 25 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours.
Disp:*120 Tablet(s)* Refills:*2*
5. clonazepam 0.25 mg Tablet, Rapid Dissolve Sig: ___ Tablet, 
Rapid Dissolves PO twice a day as needed for anxiety, abdominal 
pain.
Disp:*25 Tablet, Rapid Dissolve(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hyperemesis
gastritis

 
Discharge Condition:
good

 
Discharge Instructions:
You were admitted to the hospital for nausea, vomiting and 
abdominal pain likely gastritis.
You were kept on your usual anti-nausea medications as well as 
Pepcid and Protonix and your symptoms improved. You had some 
elevated blood pressures but your 24 hour urine collection was 
negative for pre-eclampsia.
Please make sure you take all of your medications as directed: 
Pepcid, Protonix, Zofran, Compazine and Clonazepam (instead of 
the Ativan) as needed
 
Followup Instructions:
___